US05942615
Into a reaction flask were introduced 3.0 g (16.4 mmol) of phenoxazine, 6.5 g (98.5 mmol) of 85% KOH, 3.7 g (26.8 mmol) of potassium carbonate, 577 mg (1.7 mmol) of tetra-n-butylammonium hydrogensulfate, and 100 ml of toluene. Thereto was gradually added 5.1 g (32.7 mmol) of ethyl iodide with a dropping funnel (slight heat generation occurred). Subsequently, the mixture was reacted at 60° to 80° C. for 7 hours. After the disappearance of the phenoxazine was ascertained by TLC and gas chromatography, the resultant toluene solution was cooled, washed with water three times, dried (with MgSO4), and then concentrated. The residue was distilled under vacuum to obtain 2.72 g of 10-ethylphenoxazine.

reactant | phenoxazine | 16.4 mmol, 3.0 g | C1=CC=CC=2OC3=CC=CC=C3NC12 | C12H9NO
reactant | KOH | 98.5 mmol, 6.5 g | [OH-].[K+]
reactant | potassium carbonate | 26.8 mmol, 3.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 32.7 mmol, 5.1 g | C(C)I | C2H5I
catalyst | tetra-n-butylammonium hydrogensulfate | 1.7 mmol, 577 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 10-ethylphenoxazine | 2.72 g | C(C)N1C2=CC=CC=C2OC=2C=CC=CC12 | C14H13NO
